US06953792B2
1,1-Dimethylethyl 1-Oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate
1-(1,1-Dimethylethyl) 4-ethyl 4-(2-propenyl)-1,4-piperidinedicarboxylate (Description 40, 20.0 g, 67.2 mmol) was dissolved in methanol (300 mL) and dichloromethane (300 mL) and cooled to −78° C. Oxygen was bubbled through the solution for 10 minutes, then ozone for 75 minutes, to give a persistant blue coloration. Oxygen was bubbled through the solution for 10 minutes, then nitrogen for 10 minutes. Sodium borohydride (5.1 g, 135 mmol) was added and the mixture was stirred at −78° C. for 1 hour. Further sodium borohydride (5.1 g, 135 mmol) was added and the mixture was stirred at room temperature for 16 hours. Acetone (75 mL) was added and the mixture was stirred at room temperature for 10 minutes. Water (50 mL) was added and the organic solvent was evaporated under reduced pressure. Saturated aqueous ammonium chloride (500 mL) was added and the mixture was extracted with ethyl acetate (2×500 mL). The combined organic fractions were washed with aqueous citric acid (10%, 500 mL), saturated aqueous sodium hydrogen carbonate (500 mL) and brine (200 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure to give the title compound (15.0 g, 88%). 1H NMR (400 MHz, CDCl3) δ 4.31 (2H, t, J 7 Hz), 3.97-3.87 (2H, m), 3.17-3.07 (2H, m), 2.20 (2H, t, J 7 Hz), 1.92-1.82 (2H, m), 1.60-1.45 (2H, m), and 1.45 (9H, s).

reactant | 1-(1,1-Dimethylethyl) 4-ethyl 4-(2-propenyl)-1,4-piperidinedicarboxylate | 67.2 mmol, 20.0 g | C(C=C)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C16H27NO4
reactant | dichloromethane | 300 mL | ClCCl | CH2Cl2
reactant | Sodium borohydride | 135 mmol, 5.1 g | [BH4-].[Na+]
reactant | sodium borohydride | 135 mmol, 5.1 g | [BH4-].[Na+]
reactant | Acetone | 75 mL | CC(=O)C | C3H6O
solvent | methanol | 300 mL | CO | CH4O
solvent | Water | 50 mL | O | H2O
product | 1,1-Dimethylethyl 1-Oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate | 15.0 g, 88% | O=C1OCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H21NO4
